US07202232B2
A stirred solution of 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester (2.4 g, 6.8 mmol) in dry toluene (20 mL) was treated with 1M solution of DIBAL-H in toluene (10.2 mL, 10.2 mmol) at room temperature. The mixture was stirred for 1 hour and quenched with saturated aqueous NH4Cl (30 mL). The organic layer was separated and the aqueous layer was extracted with EtOAc (2×30 mL). The organics were washed with water (30 mL), dried (anhydrous Na2SO4) and the solvent removed under reduced pressure. Purification by flash chromatography (SiO2, 4:1 hexane/EtOAc) gave [4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol (2 g, 94.8% yield) as a colorless oil.

reactant | 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester | 6.8 mmol, 2.4 g | C(C)OC(C1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F)=O | C14H10F6N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.2 mmol, 10.2 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol | 2 g, 94.8% yield | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)CO)(F)F | C12H8F6N2O
